US07288541B2
To a solution of 96.6 mg (0.17 mmol) of (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{(1S)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate & (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{(1R)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate in 1.7 mL of chloroform was added 85 mg (0.2 mmol) of Dess-Martin periodinane, and the mixture was stirred at room temperature for 1 h. A second portion of 15 mg (0.035 mmol) of Dess-Martin periodinane was added, and the reaction mixture was stirred for 0.5 h. It was then diluted with ethyl acetate and a saturated aqueous sodium thiosulfate solution. The layers were mixed vigorously, before a saturated aqueous sodium bicarbonate solution was added. The layers were separated, and the organic phase was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography eluting with a methanol:chloroform solution (1:9) to yield 21.6 mg (23%) of (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{[(2-pyridinylsulfonyl)amino]acetyl}pentylcarbamate. ES-LCMS m/z 572 (M+H) retention time=2.83 min. HRMS C28H37N5O6S m/z 572.2543 (M+H)Cal; 572.2526 (M+H)Obs.

reactant | (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{(1S)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate | 0.17 mmol, 96.6 mg | O[C@@H](CNS(=O)(=O)C1=NC=CC=C1)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)COC1=CC=C(C=C1)N1C=NC=C1)=O | C28H39N5O6S
reactant | (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{(1R)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate | O[C@H](CNS(=O)(=O)C1=NC=CC=C1)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)COC1=CC=C(C=C1)N1C=NC=C1)=O | C28H39N5O6S
reactant | Dess-Martin periodinane | 0.2 mmol, 85 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 0.035 mmol, 15 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 1.7 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{[(2-pyridinylsulfonyl)amino]acetyl}pentylcarbamate | 21.6 mg, 23% | N1=C(C=CC=C1)S(=O)(=O)NCC(=O)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)COC1=CC=C(C=C1)N1C=NC=C1)=O | C28H37N5O6S
